### PR TITLE
[Merged by Bors] - feat(CategoryTheory): constructor for functors from the category `ℕ`

### PR DESCRIPTION
**Pull request by joelriou**
In this file, we provide a constructor `Functor.ofSequence` for functors `ℕ ⥤ C`, which takes as an input a sequence of morphisms `f : X n ⟶ X (n + 1)` for all `n : ℕ`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+  induction k₂ with
+  | zero => simp
+  | succ k₂ hk₂ =>
+      intro i k₁
+      simp [reassoc_of% (hk₂ i k₁), congr_f f _ _ (add_assoc i k₁ k₂)]
+
+/-- The morphism `X i ⟶ X j` obtained by composing morphisms of
+the form `X n ⟶ X (n + 1)` when `i ≤ j`. -/
+def map (i j : ℕ) (hij : i ≤ j) : X i ⟶ X j :=
+  map' f i (j - i) ≫ eqToHom (by congr; omega)
```
Comment (urkud) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:60]: It may be easier to use `Nat.leRecOn` to construct this map.

Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/OfSequence.lean]: Thanks for the suggestion. I had already tried to make an induction on the `le` type, but it seems it was not possible (because this may eliminate only into props). I could not use `Nat.leRecOn` either, but I have managed to do an induction on the numbers that are involved, which gives good defeq.

File: Mathlib/CategoryTheory/Functor/OfSequence.lean [hunk 2]
```diff
@@ -0,0 +1,147 @@
...
+      · omega
+      · omega
+      · omega
+      · intros
+        exact hi _ j k (by omega) (by omega)
+
+-- `map` has good definitional properties when applied to explicit natural numbers
+example : map f 5 5 (by omega) = 𝟙 _ := rfl
+example : map f 0 3 (by omega) = f 0 ≫ f 1 ≫ f 2 := rfl
+example : map f 3 7 (by omega) = f 3 ≫ f 4 ≫ f 5 ≫ f 6 := rfl
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Functor/OfSequence.lean:97]: This is nice!

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
